US04687775
A mixture of 4.4 g (26 mmole) of 3-(acetoxymethyl)-2-pyridinamine and 6.0 g (30 mmole) of 2-bromo-2-phenylacetaldehyde was heated at 65°. The mixture was dissolved in water, made basic with aqueous potassium carbonate, and extracted with dichloromethane. The organic layer was washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was triturated with diethyl ether to yield 4.1 g of 8-(acetoxymethyl)-3-phenylimidazo[1,2-a]pyridine as confirmed by the nmr and infrared spectra and by elemental analysis. [Calcd. for C16H14N2O2 : C, 72.17; H, 5.30; N, 10.52. Found: C, 71.90; H, 5.25; N, 10.43.] The title compound (1.5 g) was prepared by the method described in Example 26 using 1.3 g (5 mmole) of 8-(acetoxymethyl)-3-phenylimidazo[1,2-a]pyridine instead of 8-hydroxymethyl-2-phenylimidazo[1,2-a]pyridine. Structure assignment was supported by the nmr and infrared spectra and by elemental analysis.

reactant | 3-(acetoxymethyl)-2-pyridinamine | 26 mmole, 4.4 g | C(C)(=O)OCC=1C(=NC=CC1)N | C8H10N2O2
reactant | 2-bromo-2-phenylacetaldehyde | 30 mmole, 6.0 g | BrC(C=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 8-(acetoxymethyl)-3-phenylimidazo[1,2-a]pyridine | 4.1 g | C(C)(=O)OCC=1C=2N(C=CC1)C(=CN2)C2=CC=CC=C2 | C16H14N2O2
